US04012392
2-Benzyl-1,3,3-trimethyl-4-piperidinol hydrochloride
A solution of 9 g of 2-benzyl-1,3,3-trimethyl-4-piperidone hydrochloride in 50 ml of methanol is submitted to catalytic hydrogenation at room temperature and atmospheric pressure, with 0.4 g platinum oxide as the catalyst. The product is crystallized from ethanol/ether. Yield 98%. Melting point, after recrystallization, 213°-222° C.

reactant | 2-benzyl-1,3,3-trimethyl-4-piperidone hydrochloride | 9 g | Cl.C(C1=CC=CC=C1)C1N(CCC(C1(C)C)=O)C
solvent | methanol | 50 ml | CO | CH4O
catalyst | platinum oxide | 0.4 g | [Pt]=O
product | 2-Benzyl-1,3,3-trimethyl-4-piperidinol hydrochloride | Yield 98% | Cl.C(C1=CC=CC=C1)C1N(CCC(C1(C)C)O)C | InChI=1S/C15H23NO.ClH/c1-15(2)13(16(3)10-9-14(15)17)11-12-7-5-4-6-8-12;/h4-8,13-14,17H,9-11H2,1-3H3;1H
